US07037938B2
To a solution of benzamide (1.42 g) in tetrahydrofuran (50 ml) were added sodium hydride (611 mg) and 4-bromobenzenesulfonyl chloride (3.0 g), and the mixture was stirred at room temperature for 3 hours. The mixture was diluted with ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate=2/1) to give N-benzoyl-4-bromobenzenesulfonamide (2.1 g) as a colorless powder.

reactant | benzamide | 1.42 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | sodium hydride | 611 mg | [H-].[Na+]
reactant | 4-bromobenzenesulfonyl chloride | 3.0 g | BrC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | N-benzoyl-4-bromobenzenesulfonamide | 2.1 g | C(C1=CC=CC=C1)(=O)NS(=O)(=O)C1=CC=C(C=C1)Br | C13H10BrNO3S
